US09422292B2
To a stirred solution of ethyl 1-((2-amino-5-bromophenylamino)methyl)cyclopropanecarboxylate (624 mg, 2.0 mmol) in toluene (15 mL) was added dropwise tetraisopropoxytitanium (1.2 g, 4.0 mmol). After addition was complete, the reaction was stirred for 12 hours at 90° C. The mixture was diluted with water (200 mL), extracted with ethyl acetate (200 mL). The organic layer was separated, dried by sodium sulfate, filtered and concentrated to give the crude 7-bromo-4,5-dihydrospiro[benzo[b][1,4]diazepine-3,1′-cyclopropan]-2(1H)-one (400 mg, 75%) as white solid, used for the next step without further purification.

reactant | ethyl 1-((2-amino-5-bromophenylamino)methyl)cyclopropanecarboxylate | 2.0 mmol, 624 mg | NC1=C(C=C(C=C1)Br)NCC1(CC1)C(=O)OCC | C13H17BrN2O2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 mL | O | H2O
catalyst | tetraisopropoxytitanium | 4.0 mmol, 1.2 g | C(C)(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 7-bromo-4,5-dihydrospiro[benzo[b][1,4]diazepine-3,1′-cyclopropan]-2(1H)-one | 400 mg, 75% | BrC1=CC2=C(NC(C3(CC3)CN2)=O)C=C1 | C11H11BrN2O
